spice
* Nodes: 
* 1 - Ground
* 2 - Vb
* 3 - Rout
* 4 - ro1 and current source gm1 connection
* 5 - Connection between r02 and M2

VDD 3 0 DC
r04 3 5 1k
r02 5 4 1k
M2 3 2 5 NMOS L=1u W=1u
r01 4 1 1k
I_gm1 4 1 DC gm1

.model NMOS NMOS (level=1)